US07763639B2
3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL METHANESULFONATE
To a solution of 3-(1-ethylpiperidin-4-yl)-2-fluorophenol (0.44 g, 1.97 mmol)) in methylene chloride (20 ml) was added triethylamine (4 ml) and methanesulfonyl chloride (0.56 ml, 3.67 mmol). The mixture was stirred for 20 h and water (50 ml) and methylene chloride (50 ml) was added and the phases were separated. The aqueous phase was extracted with methylene chloride (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. Purification by flash column chromatography (ethyl acetate/methanol, 1:1) gave the title compound: 0.39 g (66%). The amine was converted to the oxalic acid salt and recrystallized from ethanol/diethyl ether: M.p. 161.5-163.2. MS m/z (relative intensity, 70 eV) 301 (M+, 15), 287 (15), 286 (bp), 222 (23), 207 (38).

reactant | 3-(1-ethylpiperidin-4-yl)-2-fluorophenol | 1.97 mmol, 0.44 g | C(C)N1CCC(CC1)C=1C(=C(C=CC1)O)F | C13H18FNO
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.67 mmol, 0.56 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(1-ETHYLPIPERIDIN-4-YL)-2-FLUOROPHENYL METHANESULFONATE | CS(=O)(=O)OC1=C(C(=CC=C1)C1CCN(CC1)CC)F | C14H20FNO3S
